US08084620B2
Step 3 A solution of 3-bromo-2-fluoro-N-methylaniline (32 mg, 0.157 mmol) and diisopropylamine (0.055 mL, 0.314 mmol) in DCM (2 mL) was treated with 4-fluorobenzoyl chloride (0.028 mL, 0.235 mmol) and the mixture was stirred at rt for 2 h. The mixture was partitioned between DCM and NaHCO3 (aq). The organic phase was washed with brine, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 90:10 to 80:20 hexane-EtOAc) to provide N-(3-bromo-2-fluorophenyl)-4-fluoro-N-methylbenzamide as a white solid (35 mg, 68%). Mass spectrum m/z 326, 328 (M+H)+.

reactant | 3-bromo-2-fluoro-N-methylaniline | 0.157 mmol, 32 mg | BrC=1C(=C(NC)C=CC1)F | C7H7BrFN
reactant | diisopropylamine | 0.314 mmol, 0.055 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.235 mmol, 0.028 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-2-fluorophenyl)-4-fluoro-N-methylbenzamide | 35 mg, 68% | BrC=1C(=C(C=CC1)N(C(C1=CC=C(C=C1)F)=O)C)F | C14H10BrF2NO
